*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.00e-03[uF]/50[V]
* Murata P/N :GCM2162C1H102JA01
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C1H102JA01 Port1 Port2
C01 Port1 N01 9.87e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.35e-10
R03 N02 N03 1.92e-02
L04 N03 N04 3.19e-11
R04 N03 N04 4.38e-01
L05 N04 N05 9.79e-11
R05 N04 N05 3.19e-02
C06 N05 N06 7.24e-09
L06 N05 N06 6.36e-12
R06 N05 N06 1.04e-01
C07 N06 N07 5.42e-10
L07 N06 N07 2.60e-11
R07 N06 N07 3.37e-01
C08 N07 Port2 1.26e-12
L08 N07 Port2 3.24e-10
R08 N07 Port2 3.82e+02
.ENDS GCM2162C1H102JA01
