*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/4.70e-03[uF]/50[V]
* Murata P/N :GCM2162C1H472JA01
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2162C1H472JA01 Port1 Port2
C01 Port1 N01 4.84e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 6.31e-11
R03 N02 N03 7.28e-03
L04 N03 N04 7.68e-11
R04 N03 N04 2.96e-01
L05 N04 N05 6.53e-11
R05 N04 N05 1.42e-02
C06 N05 N06 2.55e-08
L06 N05 N06 1.77e-11
R06 N05 N06 1.89e-01
C07 N06 N07 5.90e-09
L07 N06 N07 2.85e-11
R07 N06 N07 3.32e-01
C08 N07 N08 5.56e-12
L08 N07 N08 6.32e-11
R08 N07 N08 1.84e+01
C09 N08 Port2 1.32e-12
L09 N08 Port2 2.11e-10
R09 N08 Port2 1.00e+05
.ENDS GCM2162C1H472JA01
