*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-03[uF]/50[V]
* Murata P/N :GCM2165C1H102JA16
* Property : C = 1.00e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C1H102JA16 Port1 Port2
C01 Port1 N01 9.81e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 3.16e-11
R03 N02 N03 2.28e-02
C04 N03 N04 1.24e-08
L04 N03 N04 8.80e-11
R04 N03 N04 2.65e-02
C05 N04 N05 3.72e-09
L05 N04 N05 1.32e-11
R05 N04 N05 1.37e-01
C06 N05 N06 5.49e-10
L06 N05 N06 2.53e-11
R06 N05 N06 3.34e-01
C07 N06 N07 4.72e-12
L07 N06 N07 5.28e-11
R07 N06 N07 8.20e-01
C08 N07 Port2 5.35e-13
L08 N07 Port2 4.19e-10
R08 N07 Port2 9.12e+04
.ENDS GCM2165C1H102JA16
