*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/4.70e-03[uF]/50[V]
* Murata P/N :GCM2165C1H472JA16
* Property : C = 4.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C1H472JA16 Port1 Port2
C01 Port1 N01 4.67e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.20e-10
R03 N02 N03 1.13e-02
L04 N03 N04 6.56e-11
R04 N03 N04 1.44e-02
C05 N04 N05 1.77e-08
L05 N04 N05 2.33e-11
R05 N04 N05 1.79e-01
C06 N05 N06 4.75e-09
L06 N05 N06 3.17e-11
R06 N05 N06 3.21e-01
C07 N06 N07 1.76e-09
L07 N06 N07 2.46e-11
R07 N06 N07 1.24e-01
C08 N07 N08 7.19e-12
L08 N07 N08 5.25e-11
R08 N07 N08 5.21e-01
C09 N08 Port2 9.13e-13
L09 N08 Port2 2.21e-10
R09 N08 Port2 1.00e+05
.ENDS GCM2165C1H472JA16
