*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/6.80e-04[uF]/50[V]
* Murata P/N :GCM2165C1H681JA16
* Property : C = 6.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C1H681JA16 Port1 Port2
C01 Port1 N01 6.80e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 3.19e-10
R03 N02 N03 4.50e-02
L04 N03 N04 6.53e-11
R04 N03 N04 1.49e+00
C05 N04 N05 2.07e-09
L05 N04 N05 2.24e-11
R05 N04 N05 4.17e-01
C06 N05 N06 5.37e-10
L06 N05 N06 2.75e-11
R06 N05 N06 6.67e-01
C07 N06 Port2 3.56e-12
L07 N06 Port2 7.25e-11
R07 N06 Port2 1.00e+05
.ENDS GCM2165C1H681JA16
