*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.20e-02[uF]/50[V]
* Murata P/N :GCM2192C1H123JA01
* Property : C = 1.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2192C1H123JA01 Port1 Port2
C01 Port1 N01 1.19e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.33e-11
R03 N02 N03 5.00e-03
L04 N03 N04 9.96e-11
R04 N03 N04 1.91e-01
L05 N04 N05 4.55e-11
R05 N04 N05 4.28e-03
C06 N05 N06 3.12e-08
L06 N05 N06 4.40e-11
R06 N05 N06 2.52e-01
C07 N06 N07 1.75e-08
L07 N06 N07 3.03e-11
R07 N06 N07 2.93e-01
C08 N07 N08 2.35e-11
L08 N07 N08 1.34e-11
R08 N07 N08 4.47e-01
C09 N08 Port2 5.12e-13
L09 N08 Port2 3.05e-10
R09 N08 Port2 1.00e+05
.ENDS GCM2192C1H123JA01
