*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/1.50e-02[uF]/50[V]
* Murata P/N :GCM2192C1H153JA01
* Property : C = 1.50e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2192C1H153JA01 Port1 Port2
C01 Port1 N01 1.50e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 7.59e-11
R03 N02 N03 5.00e-03
L04 N03 N04 1.20e-10
R04 N03 N04 2.44e-01
L05 N04 N05 7.16e-11
R05 N04 N05 5.09e-03
C06 N05 N06 3.89e-08
L06 N05 N06 4.81e-11
R06 N05 N06 2.42e-01
C07 N06 N07 2.29e-08
L07 N06 N07 3.60e-11
R07 N06 N07 2.69e-01
C08 N07 N08 1.47e-07
L08 N07 N08 2.74e-12
R08 N07 N08 4.32e-02
C09 N08 N09 3.21e-08
L09 N08 N09 7.97e-12
R09 N08 N09 7.21e-02
C10 N09 N10 1.09e-11
L10 N09 N10 3.12e-11
R10 N09 N10 6.29e+00
C11 N10 Port2 1.54e-12
L11 N10 Port2 1.62e-10
R11 N10 Port2 1.00e+05
.ENDS GCM2192C1H153JA01
