*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/CH(-55to125[deg])/5.60e-03[uF]/50[V]
* Murata P/N :GCM2192C1H562JA01
* Property : C = 5.60e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2192C1H562JA01 Port1 Port2
C01 Port1 N01 5.70e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.00e-12
R03 N02 N03 4.66e-03
L04 N03 N04 1.04e-10
R04 N03 N04 3.42e-01
L05 N04 N05 8.94e-11
R05 N04 N05 7.30e-03
L06 N05 N06 6.66e-11
R06 N05 N06 1.34e-03
C07 N06 N07 1.63e-08
L07 N06 N07 4.04e-11
R07 N06 N07 2.97e-01
C08 N07 N08 8.56e-09
L08 N07 N08 3.20e-11
R08 N07 N08 4.24e-01
C09 N08 N09 1.30e-08
L09 N08 N09 9.56e-12
R09 N08 N09 7.44e-02
C10 N09 N10 9.40e-09
L10 N09 N10 8.19e-12
R10 N09 N10 9.49e-02
C11 N10 N11 3.90e-11
L11 N10 N11 9.00e-12
R11 N10 N11 1.33e+00
C12 N11 Port2 6.65e-13
L12 N11 Port2 3.41e-10
R12 N11 Port2 1.00e+05
.ENDS GCM2192C1H562JA01
