*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-02[uF]/50[V]
* Murata P/N :GCM2195C1H103JA16
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2195C1H103JA16 Port1 Port2
C01 Port1 N01 9.85e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 2.06e-10
R03 N02 N03 4.22e-03
L04 N03 N04 1.32e-10
R04 N03 N04 2.65e-01
L05 N04 N05 1.12e-10
R05 N04 N05 6.32e-03
C06 N05 N06 4.00e-08
L06 N05 N06 3.28e-11
R06 N05 N06 2.77e-01
C07 N06 N07 1.59e-08
L07 N06 N07 3.66e-11
R07 N06 N07 2.93e-01
C08 N07 N08 1.41e-07
L08 N07 N08 1.97e-12
R08 N07 N08 3.63e-02
C09 N08 N09 1.81e-08
L09 N08 N09 9.20e-12
R09 N08 N09 8.88e-02
C10 N09 N10 7.84e-11
L10 N09 N10 5.62e-12
R10 N09 N10 1.34e-01
C11 N10 Port2 2.36e-12
L11 N10 Port2 1.02e-10
R11 N10 Port2 1.00e+05
.ENDS GCM2195C1H103JA16
