*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/6.80e-03[uF]/50[V]
* Murata P/N :GCM2195C1H682JA16
* Property : C = 6.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2195C1H682JA16 Port1 Port2
C01 Port1 N01 6.75e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 6.48e-11
R03 N02 N03 7.15e-03
L04 N03 N04 6.63e-11
R04 N03 N04 3.89e-01
L05 N04 N05 1.06e-10
R05 N04 N05 1.23e-02
C06 N05 N06 2.73e-08
L06 N05 N06 2.81e-11
R06 N05 N06 2.53e-01
C07 N06 N07 7.06e-09
L07 N06 N07 4.10e-11
R07 N06 N07 3.73e-01
C08 N07 N08 5.35e-09
L08 N07 N08 1.65e-11
R08 N07 N08 1.20e-01
C09 N08 N09 1.26e-10
L09 N08 N09 3.72e-12
R09 N08 N09 2.11e-01
C10 N09 Port2 7.35e-13
L10 N09 Port2 3.41e-10
R10 N09 Port2 1.00e+05
.ENDS GCM2195C1H682JA16
